US07402580B2
3-hydroxy-4,5,6,7-tetrahydro-2-benzofuran-1(3H)-one
To a solution of 3,4,5,6-tetrahydrophthalic acid anhydride (10.0 g) in tetrahydrofuran (50.0 mL) was added sodium borohydride (600 mg) in ice bath. The mixture was stirred at room temperature for 30 minutes and refluxed for 5 hours. After cooling to room temperature, 1N hydrochloric acid (10.0 mL) was added to the reaction mixture, which was concentrated. Water was added to the residue, which was extracted with ethyl acetate. The extract was washed with water and brine sequentially, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:4) to give the title compound (5.40 g) having the following physical data.

reactant | 3,4,5,6-tetrahydrophthalic acid anhydride | 10.0 g | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
reactant | sodium borohydride | 600 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1N, 10.0 mL | Cl | ClH
solvent | tetrahydrofuran | 50.0 mL | O1CCCC1 | C4H8O
product | 3-hydroxy-4,5,6,7-tetrahydro-2-benzofuran-1(3H)-one | 5.40 g | OC1OC(C2=C1CCCC2)=O | C8H10O3
